US07947834B2
2.2 g of trifluoromethanesulfonic acid 1-(2,3-dihydrobenzo[1,4]oxazine-4-carbonyl)-2,5-dihydro-1H-pyrrol-3-yl ester, 1.92 g of bis(pinacolato)diboron, 0.28 g of bis(diphenylphosphino)ferrocenedichloropalladium(II), 1.7 g of potassium acetate and 0.06 g of 1,1′-bis(diphenylphosphino)ferrocene are introduced into a 100 ml three-necked flask equipped with a magnetic stirrer and placed under an inert atmosphere. The reaction medium is brought to reflux for 14 h and then concentrated under reduced pressure. Water and ethyl acetate are added and the heterogeneous mixture is filtered through celite. The organic phase is washed with water, dried over sodium sulfate and concentrated under reduced pressure. The residue is chromatographed on silica gel eluted with a gradient of ethyl acetate from 30% to 50% in heptane. 1.22 g of (2,3-dihydrobenzo[1,4]oxazin-4-yl)[3-(4,4,5,5-tetramethyl-[1,3,2]dioxaborolan-2-yl)-2,5-dihydropyrrol-1-yl]methanone are obtained.

reactant | trifluoromethanesulfonic acid 1-(2,3-dihydrobenzo[1,4]oxazine-4-carbonyl)-2,5-dihydro-1H-pyrrol-3-yl ester | 2.2 g | O1CCN(C2=C1C=CC=C2)C(=O)N2CC(=CC2)OS(=O)(=O)C(F)(F)F | C14H13F3N2O5S
reactant | bis(pinacolato)diboron | 1.92 g | B1(OC(C(O1)(C)C)(C)C)B2OC(C(O2)(C)C)(C)C | C12H24B2O4
reactant | potassium acetate | 1.7 g | C(C)(=O)[O-].[K+]
catalyst | 1,1′-bis(diphenylphosphino)ferrocene | 0.06 g | C1(=CC=CC=C1)P([C-]1C=CC=C1)C1=CC=CC=C1.[C-]1(C=CC=C1)P(C1=CC=CC=C1)C1=CC=CC=C1.[Fe+2]
product | (2,3-dihydrobenzo[1,4]oxazin-4-yl)[3-(4,4,5,5-tetramethyl-[1,3,2]dioxaborolan-2-yl)-2,5-dihydropyrrol-1-yl]methanone | 1.22 g | O1CCN(C2=C1C=CC=C2)C(=O)N2CC(=CC2)B2OC(C(O2)(C)C)(C)C | C19H25BN2O4
